US04031249
Sodium nitrate (4.3 g) was added in portions over 1 hour to a solution of 2-fluoro-4,6-diiodophenol (16.3 g) in acetic acid (100 ml). The mixture was stirred for a further 15 minutes and was then poured into ice water (250 ml). The aqueous solution was concentrated under reduced pressure, extracted with chloroform and the organic solvent removed under reduced pressure. The residue was steam distilled to give 2-fluoro-4-iodo-6-nitrophenol which crystallised from aqueous ethanol (1.8 g) m.p. 96°.

reactant | Sodium nitrate | 4.3 g | [N+](=O)([O-])[O-].[Na+]
reactant | 2-fluoro-4,6-diiodophenol | 16.3 g | FC1=C(C(=CC(=C1)I)I)O | C6H3FI2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-fluoro-4-iodo-6-nitrophenol | FC1=C(C(=CC(=C1)I)[N+](=O)[O-])O | C6H3FINO3
